US04426522
Into a 50 ml round bottomed flask equipped with an efficient condenser sealed with a calcium chloride tube were placed 10 ml of ethylchloroformate and 1 g of 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione. The mixture was refluxed for 3 hours, the solvent was removed in vacuum and ice water was added cautiously to the residue. The solution was adjusted to a neutral pH with a saturated solution of sodium bicarbonate. The crystals thus formed were filtered off by suction and recrystallized from isopropanol to yield 0.8 g (50%) of 1-ethoxycarbonyl-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione; m.p. 135°.

reactant | 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 1 g | ClC1=CC=C(CN2NCC(NC2=O)=O)C=C1 | C10H10ClN3O2
reactant | ethylchloroformate | 10 ml | C(C)OC(=O)Cl | C3H5ClO2
product | 1-ethoxycarbonyl-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 0.8 g, 50% | C(C)OC(=O)N1N(C(NC(C1)=O)=O)CC1=CC=C(C=C1)Cl | C13H14ClN3O4
